US05633360
5-(1-Pentynyl)-2'-deoxyuridine (1).
This compound was prepared by the same procedure that Hobbs, F. W. J., J Org Chem (1989) 54: 3420-3422, used for the preparation of other alkynyl substituted nucleosides. A mixture of 30.0 g (84.7 mmol) of 5-iodo-2'deoxyuridine (purchased from Sigma), 23.6 mL of 1-pentyne (Aldrich), 9.79 g of tetrakis (triphenylphosphine) palladium (0) (Aldrich), and 3.23 g of copper (I) iodide were stirred at room temperature for 26 h. To the reaction was added 250 mL of MeOH and 250 mL of CH2Cl2. The mixture was neutralized with Dowex 1 x 8-200 (bicarbonate form) ion exchange resin. The mixture was filtered and concentrated. The residue was partitioned between H2O and CH2Cl2. The aqueous layer was extracted three times with CH2Cl2 and then concentrated. Purification of the crude product by column chromatography afforded 20.4 g (81.9% yield) of product.

reactant | 5-iodo-2'deoxyuridine | 84.7 mmol, 30.0 g | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11IN2O5
reactant | 1-pentyne | 23.6 mL | C#CCCC | C5H8
reactant | MeOH | 250 mL | CO | CH4O
reactant | bicarbonate | C([O-])(O)=O
catalyst | tetrakis (triphenylphosphine) palladium (0) | 9.79 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper (I) iodide | 3.23 g | [Cu]I
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 5-(1-Pentynyl)-2'-deoxyuridine | 20.4 g, 81.9% yield | C(#CCCC)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C14H18N2O5
